US09340527B2
6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinazoline
Cesium carbonate (3.1308 g, 9.6089 mmol) was added to a mixture of 6-bromoquinazolin-2-ol (1.0812 g, 4.8044 mmol) in tert-butyl alcohol (15 mL, 160 mmol), toluene (25 mL, 230 mmol) and 2-butanone (10 mL, 100 mmol). The mixture was heated at 110° C. for 1 hour in a sealed tube then cooled to room temperature and methanesulfonic acid 4-tert-butyl-cyclohexyl ester (2.2519 g, 9.6089 mmol) was added. The reaction was then heated at 110° C. overnight. The reaction mixture was cooled to room temperature then filtered through a pad of celite. The filtrate was concentrated under reduced pressure, adsorbed onto silica gel and purified by flash chromatography (80 g SiO2 column; 0-40% EtOAc in heptane eluent) to give the title compound in 20% yield. ESI-MS (M+H+): 365.1

reactant | Cesium carbonate | 9.6089 mmol, 3.1308 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-bromoquinazolin-2-ol | 4.8044 mmol, 1.0812 g | BrC=1C=C2C=NC(=NC2=CC1)O | C8H5BrN2O
reactant | tert-butyl alcohol | 160 mmol, 15 mL | C(C)(C)(C)O | C4H10O
reactant | toluene | 230 mmol, 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-butanone | 100 mmol, 10 mL | CC(CC)=O | C4H8O
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 9.6089 mmol, 2.2519 g | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
product | 6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinazoline | 20% yield | BrC=1C=C2C=NC(=NC2=CC1)OC1CCC(CC1)C(C)(C)C | C18H23BrN2O
